US07553837B2
Production of 2,4,6,7-tetramethyl-5-nitrodihydrobenzofuran-2-aldehyde
Under an argon atmosphere, 0.57 ml of oxalic acid dichloride was dissolved in 12 ml of methylene chloride, followed by cooling to −78° C. To this solution, a solution prepared by dissolving 1.1 ml of DMSO in 2 ml of methylene chloride was added dropwise at −65 C or lower, followed by stirring for 10 minutes. Furthermore, a solution prepared by dissolving 1.34 g of 2-hydroxymethyl-2,4,6,7-tetramethyl-5-nitrodihydrobenzofuran in 4 ml of methylene chloride was added dropwise, followed by stirring at −78° C. for 3 hours. After the completion of the reaction, 4.2 ml of triethylamine was added dropwise and the reaction solution was heated to room temperature and then 1N-hydrochloric acid was added. The organic layer was extracted with chloroform, washed with saturated saline and dried over anhydrous magnesium sulfate, and then solvent was distilled off under reduced pressure and the residue was purified by silica gel column chromatography (chloroform) to obtain 0.86 g of the objective product.

reactant | oxalic acid dichloride | 0.57 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | DMSO | 1.1 ml | CS(=O)C | C2H6OS
reactant | 2-hydroxymethyl-2,4,6,7-tetramethyl-5-nitrodihydrobenzofuran | 1.34 g | OCC1(OC=2C(C1)C(C(=C(C2C)C)[N+](=O)[O-])C)C | C13H19NO4
reactant | hydrochloric acid | Cl | ClH
solvent | methylene chloride | 12 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 2 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 4 ml | C(Cl)Cl | CH2Cl2
solvent | triethylamine | 4.2 ml | C(C)N(CC)CC | C6H15N
product | 2,4,6,7-tetramethyl-5-nitrodihydrobenzofuran-2-aldehyde | 0.86 g | CC1(OC=2C(C1)C(C(=C(C2C)C)[N+](=O)[O-])C)C=O | C13H17NO4
